US07572809B2
Similar procedure as described in example 9B was used, starting from 3-(2-Chloro-3,4-dimethoxy-phenyl)-propionic acid and Methanesulfonic acid to give 4-Chloro-5,6-dimethoxy-indan-1-one. LC-MS: m/e 227 (MH+).

reactant | 3-(2-Chloro-3,4-dimethoxy-phenyl)-propionic acid | ClC1=C(C=CC(=C1OC)OC)CCC(=O)O | C11H13ClO4
reactant | Methanesulfonic acid | CS(=O)(=O)O | CH4O3S
product | 4-Chloro-5,6-dimethoxy-indan-1-one | ClC1=C2CCC(C2=CC(=C1OC)OC)=O | C11H11ClO3
